US07598391B2
To a solution of 1,1-dicyclohexyl-3-(4-hydroxymethyl-thiazol-2-yl)urea (850 mg, 2.5 mmol) in 4:1 DCM/DMSO (8 mL) was added pyridine-sulfur trioxide (1.59 g, 10.0 mmol) and triethylamine (1.55 mL, 11.25 mmol) at 0° C. The mixture was stirred for 6 h and quenched with water (50 mL) and the layers were separated. The aqueous layer was extracted with DCM (2×50 mL). The combined organic layers was washed with water, saturated ammonium chloride solution, brine, dried over sodium sulfate and concentrated in vacuo to obtain 1,1-dicyclohexyl-3-(4-formyl-thiazol-2-yl)urea (800 mg, 2.38 mmol).

reactant | 1,1-dicyclohexyl-3-(4-hydroxymethyl-thiazol-2-yl)urea | 2.5 mmol, 850 mg | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CO)C1CCCCC1 | C17H27N3O2S
reactant | pyridine-sulfur trioxide | 10.0 mmol, 1.59 g | C1=CC=NC=C1.O=S(=O)=O
reactant | triethylamine | 11.25 mmol, 1.55 mL | C(C)N(CC)CC | C6H15N
solvent | DCM DMSO | 8 mL | C(Cl)Cl.CS(=O)C
product | 1,1-dicyclohexyl-3-(4-formyl-thiazol-2-yl)urea | 2.38 mmol, 800 mg | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)C=O)C1CCCCC1 | C17H25N3O2S
